US05494908
b. 3-Amino-5-methoxy-1,2-benzisoxazole
In 125 ml of dry methanol was dissolved 5-methoxy-2-[[(1-methylethylidene)amino]oxy]benzonitrile (10 g), followed by 125 ml of ethereal hydrochloric acid. The reaction was stirred under nitrogen overnight. The reaction was neutralized with saturated sodium carbonate solution and extracted with EtOAc. The organic layer was dried and concentrated in vacuo. Recrystallization of the residue from dichloromethane/petroleum ether afforded the expected product (6.8 g).

reactant | 5-methoxy-2-[[(1-methylethylidene)amino]oxy]benzonitrile | 10 g | COC=1C=CC(=C(C#N)C1)ON=C(C)C | C11H12N2O2
reactant | hydrochloric acid | 125 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 125 ml | CO | CH4O
product | 3-Amino-5-methoxy-1,2-benzisoxazole | 6.8 g | NC1=NOC2=C1C=C(C=C2)OC | C8H8N2O2
